US05994368
To a solution of 8-[2,6-dichloro-3-(N-hydroxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline (200 mg) and triethylamine (99.9 mg) in dry dichloromethane (2 ml) was added methanesulfonyl chloride (62.2 ml) under ice-cooling, and the mixture was stirred for 30 minutes. The mixture was washed with water, saturated sodium bicarbonate solution and brine,dried over magnesium sulfate and concentrated in vacuo to give 8-[2,6-dichloro-3-(N-methanesulfonyloxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline (220 mg) as colorless amorphous.

reactant | 8-[2,6-dichloro-3-(N-hydroxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline | 200 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CO)=O)Cl | C20H18Cl2N2O3
reactant | triethylamine | 99.9 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 62.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 8-[2,6-dichloro-3-(N-methanesulfonyloxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline | 220 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(COS(=O)(=O)C)=O)Cl | C21H20Cl2N2O5S
